US07501425B1
To 3.5 (15.4 mmol) of 4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxylic acid is added 9.0 mL (123.2 mmol) of thionyl chloride, and the reaction mixture is heated at 50° C. for 1 hour, cooled to room temperature, and concentrated. The residue is twice suspended in anhydrous toluene and concentrated to give a colorless solid, 4-(isopropylamino)-2-(methylthio) pyrimidine-5-carboxylic acid chloride.

reactant | 4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxylic acid | C(C)(C)NC1=NC(=NC=C1C(=O)O)SC | C9H13N3O2S
reactant | thionyl chloride | 123.2 mmol, 9.0 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-(isopropylamino)-2-(methylthio) pyrimidine-5-carboxylic acid chloride | C(C)(C)NC1=NC(=NC=C1C(=O)Cl)SC | C9H12ClN3OS
